US06632810B2
Synthesis of 2-tert-butyldimethylsilyloxymethyl-4,5,6-trimethoxybenzimidazole:
2-Hydroxymethyl-4,5,6-trimethoxybenzimidazole (354 mg) was dissolved in dry DMF (2 mL), tert-butyldimethyl-chlorosilane (270 mg) and imidazole (45 mg) were added to the solution under ice cooling, and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction mixture to conduct extraction with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by preparative TLC on silica gel (chloroform:methanol=12:1) to obtain the title compound.

reactant | 2-Hydroxymethyl-4,5,6-trimethoxybenzimidazole | 354 mg | OCC=1NC2=C(N1)C=C(C(=C2OC)OC)OC | C11H14N2O4
reactant | tert-butyldimethyl-chlorosilane | 270 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 45 mg | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-tert-butyldimethylsilyloxymethyl-4,5,6-trimethoxybenzimidazole | [Si](C)(C)(C(C)(C)C)OCC=1NC2=C(N1)C=C(C(=C2OC)OC)OC | C17H28N2O4Si
